US07626056B2
N-(4-Cyclopropylmethanesulfonyl-1-cyclopropylmethylcyclohexylmethyl)-2-methoxy-6-trifluoromethylnicotinamide
A solution of 2-chloro-N-(4-cyclopropylmethanesulfonyl-1-cyclopropylmethylcyclohexylmethyl)-6-trifluoromethylnicotinamide (50 mg, 0.10 mmol) in methanol (5 ml) was treated with sodium methoxide (11 mg, 0.20 mmol) and the mixture was allowed to stir at ambient temperature for 1 hour then heated under reflux for 4 hours. Water (1 ml) was added and the solvent evaporated. The residue was partitioned between dichloromethane (5 ml) and water (5 ml) and the layers separated using a 5 micron PTFE frit and the filtrate was evaporated. The residue was purified by preparative plate chromatography on silica eluting with 10% ethyl acetate in dichloromethane. Collecting the appropriate band followed by trituration of the silica with ethyl acetate, filtration and evaporation gave a colourless oil (47 mg, 95%). 1H NMR δ (ppm)(CDCl3): 8.67 (1H, d, J=7.6 Hz), 7.92 (1H, s), 7.44 (1H, d, J=7.6 Hz), 4.15 (3H, s), 3.65 (2H, d, J=6.1 Hz), 2.94-2.89 (3H, m), 2.07-1.84 (6H, m), 1.40-1.32 (2H, m), 1.25-1.15 (3H, m), 0.78-0.70 (3H, m), 0.57-0.53 (2H, m), 0.42 (2H, q, J=5.3 Hz), 0.07 (2H, q, J=5.0 Hz). MS (m/e)=489.

reactant | 2-chloro-N-(4-cyclopropylmethanesulfonyl-1-cyclopropylmethylcyclohexylmethyl)-6-trifluoromethylnicotinamide | 0.10 mmol, 50 mg | ClC1=C(C(=O)NCC2(CCC(CC2)S(=O)(=O)CC2CC2)CC2CC2)C=CC(=N1)C(F)(F)F | C22H28ClF3N2O3S
reactant | sodium methoxide | 0.20 mmol, 11 mg | C[O-].[Na+]
reactant | Water | 1 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | N-(4-Cyclopropylmethanesulfonyl-1-cyclopropylmethylcyclohexylmethyl)-2-methoxy-6-trifluoromethylnicotinamide | 47 mg, 95% | C1(CC1)CS(=O)(=O)C1CCC(CC1)(CC1CC1)CNC(C1=C(N=C(C=C1)C(F)(F)F)OC)=O | C23H31F3N2O4S
